US04248618
5-(p-Methoxyphenoxy)pyrimidine (7.7 g) was dissolved in dichloromethane and the solution, maintained at a temperature of -70° to -78° C., was treated by the dropwise addition of boron tribromide (7 ml). The stirred solution was allowed to warm to room temperature and after standing overnight the dichloromethane solution was washed with a cold saturated aqueous solution of sodium bicarbonate (100 ml). The dichloromethane solution was then dried, treated with charcoal and the solvent removed by distillation under reduced pressure. The residue was washed with diethyl ether to give 5-(p-hydroxyphenoxy)pyrimidine (0.4 g) m.p. 158° C. which was characterised by p.m.r. spectroscopy.

reactant | 5-(p-Methoxyphenoxy)pyrimidine | 7.7 g | COC1=CC=C(OC=2C=NC=NC2)C=C1 | C11H10N2O2
reactant | boron tribromide | 7 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(p-hydroxyphenoxy)pyrimidine | 0.4 g | OC1=CC=C(OC=2C=NC=NC2)C=C1 | C10H8N2O2
